US08664210B2
To a solution of 2α-fluoro-6-methoxy-17β-hydroxyandrosta-4,6-dien-3-one (610 mg) in THF (10 ml), 3N HCl (2 ml) was added and the mixture refluxed for 1 h. After cooling, Na2HPO4 5% was added and the reaction mixture was extracted with EtOAc. The organic phase was washed with H2O and brine, dried over Na2SO4 and evaporated to dryness. The crude reaction mixture was purified by flash chromatography (SiO2, n-hexane/DCM/acetone 5/3/2) to give 2α-fluoro-17β-hydroxyandrost-4-en-3,6-dione (590 mg, 84% yield).

reactant | 2α-fluoro-6-methoxy-17β-hydroxyandrosta-4,6-dien-3-one | 610 mg | F[C@H]1C(C=C2C(=C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)OC)=O | C20H27FO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | HCl | 3N, 2 ml | Cl | ClH
product | 2α-fluoro-17β-hydroxyandrost-4-en-3,6-dione | 590 mg, 84% yield | F[C@H]1C(C=C2C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)=O)=O | C19H25FO3
